US07906677B2
A mixture of 1.5 g of N-(2′,6′-dichloro-4′-methylphenyl)-5-methyloxindole, 18 ml of ethanol and 1 ml of water is heated to reflux. 1.9 g of a 30% sodium hydroxide solution is slowly added and reflux is continued for 4-5 h. The solution is cooled to about 40° C. and treated slowly with a solution of 1.5 g of concentrated hydrochloric acid in 12 ml of water up to a pH of 3-4. The obtained suspension is cooled to 20° C. The crystals are collected by filtration, washed with water and dried giving 5-Methyl-2-(2′,6′-dichloro-4′-methylanilino)phenylacetic acid.

reactant | N-(2′,6′-dichloro-4′-methylphenyl)-5-methyloxindole | 1.5 g | ClC1=C(C(=CC(=C1)C)Cl)N1C(CC2=CC(=CC=C12)C)=O | C16H13Cl2NO
reactant | ethanol | 18 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1.5 g | Cl | ClH
solvent | water | 12 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 5-Methyl-2-(2′,6′-dichloro-4′-methylanilino)phenylacetic acid | CC=1C=CC(=C(C1)CC(=O)O)NC1=C(C=C(C=C1Cl)C)Cl | C16H15Cl2NO2
